US08227504B2
6-Methyl-4-oxo-4H-chromene-2-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 6-methyl-4-oxo-4H-chromene-2-carboxylic acid. MS: 460.3 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 6-methyl-4-oxo-4H-chromene-2-carboxylic acid | CC=1C=C2C(C=C(OC2=CC1)C(=O)O)=O | C11H8O4
product | 6-Methyl-4-oxo-4H-chromene-2-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(=O)C=1OC2=CC=C(C=C2C(C1)=O)C | C28H33N3O3
